Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cephalexin
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old male with past medical history of
hypertension, 6 months of worsening erythrodermic rash being
worked up by Dr. ___ ___ ___, thought to have
Sezary syndrome vs erythrodermic palmoplantar psoriasis vs Drug
rash, now admitted with worsening pain, pruritis, redness.  

Patient relevant derm history has previously been outlined in
prior dermatology notes, but in brief, patient has long history
of thick rash on her feet that up until ___ was being 
treated
by a podiatrist with ammonium lactate and intermittent courses 
of
antibiotics, with a course of cephalexin complicated by full 
body
rash, with subsequent extensive workup at ___ Dermatology
without clear etiology identified, trialed on topical steroids
without improvement, subsequently referred to Dr. ___ 
___
___.  Over recent months, given concern for drug rash,
patient stopped all home medications including lisinopril,
simvastatin, and HCTZ without improvement in rash.  Additional
workup here notable for 
peripheral blood T cell receptor gamma PCR clonality assay
positive for a clonal rearrangement.  Subsequent skin biopsy was
not felt consistent with cutaneous T cell lymphoma.  Patient had
been referred to ___ Oncology for discussion of these results,
scheduled for ___.  Over recent weeks, she reports being
compliant with the recommended UV therapy, although she
acknowledges missing 2 sessions due to decreased mobility from
worsening pain: patient has noted more "swelling" throughout her
body, which she thought might relate to cessation of her Hctz in
recent months.  She had been trialed on furosemide 20mg without
improvement.  

Given worsening swelling, pain and pruritis over the last 1 
week,
she presented to the ___ ED.  In the ED, initial vitals were: 
98.4  95 160/69 16 100% RA.  Na 147, K 3.9, Cr 0.7; WBC 11.3, 
Hgb
12.7, Plt 317; ALT 26, AST 22, AP 111, Tbili 0.5; BNP 322;
lactate 2.4.  CXR with "top-normal heart size with mild 
pulmonary
vascular congestion. No frank pulmonary edema or focal
consolidation."

On the floor, patient and daughter confirmed history.  Reported
puriritis and redness were biggest concerns, but were also
concerned about some skin breakdown with clear liquid draining
from her legs.  She denies any dyspnea, orthopnea; she denied
chest pain, cough; she denied changes in urination habits, foamy
urine.  She denied recent changes to detergent, soaps.  She
reports a 10lb weight gain over last 6 months, but she says her
weight often fluctuates.  Full 10 point review of systems
positive where noted otherwise negative.
 
Past Medical History:
Hypertension
Erythrodermic rash of unclear etiology  
 
Social History:
___
Family History:
Denies history of skin issues, cancers, autoimmune diseases.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VS: ___ 1203 Temp: 98.4 PO BP: 143/66 HR: 87 RR: 17 O2 sat:
100% O2 delivery: RA 
Gen - sitting up in bed, erythrodermic rash, comfortable
appearing, 
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg; no JVD visible
Lungs - CTA bilaterally, no crackles; 
Abd - soft nontender, normal bowel sounds 
Ext - non-pitting edema in arms and legs
Skin - diffuse erytherodermic rash over entire body, some mild
scaling and dry skin flaking at hands/feet and scalp; no mucus
membrane involvement
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

Patient examined on day of discharge. AVSS, rash unchanged. 
However, ___ edema decreased -- left foot dramatically less 
edema, right still puffy, edema reduced in shins 
 
Pertinent Results:
LABORATORY RESULTS:

___ 09:07AM BLOOD WBC-11.3* RBC-4.37 Hgb-12.7 Hct-39.0 
MCV-89 MCH-29.1 MCHC-32.6 RDW-15.2 RDWSD-49.6* Plt ___
___ 06:16AM BLOOD WBC-6.5 RBC-4.02 Hgb-11.4 Hct-36.1 MCV-90 
MCH-28.4 MCHC-31.6* RDW-15.2 RDWSD-49.2* Plt ___
___ 09:07AM BLOOD Neuts-65.8 Lymphs-16.7* Monos-9.2 
Eos-7.4* Baso-0.5 Im ___ AbsNeut-7.44* AbsLymp-1.89 
AbsMono-1.04* AbsEos-0.84* AbsBaso-0.06
___ 06:16AM BLOOD Neuts-69.3 ___ Monos-7.1 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.52 AbsLymp-1.41 AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.03
___ 09:07AM BLOOD Glucose-112* UreaN-9 Creat-0.7 Na-147 
K-3.9 Cl-111* HCO3-24 AnGap-12
___ 06:16AM BLOOD Glucose-104* UreaN-9 Creat-0.5 Na-144 
K-4.4 Cl-106 HCO3-22 AnGap-16
___ 09:07AM BLOOD ALT-26 AST-22 AlkPhos-111* TotBili-0.5
___ 09:07AM BLOOD Albumin-3.3* Calcium-8.9 Phos-3.3 Mg-1.9
___ 09:23AM BLOOD Lactate-2.4*
___ 04:53PM BLOOD Lactate-2.6*

CXR:

Top-normal heart size with mild pulmonary vascular congestion.  
No frank 
pulmonary edema or focal consolidation 

 
Brief Hospital Course:
On admission, ___ was evaluated by dermatology, who 
recommended an aggressive skin regimen (as below) with topical 
corticosteroids, as well as hydroxyzine and fexofenadine for her 
rash. On further discussion with ___ and ___ family, her chief 
complaint was increased lower extremity swelling, which had 
dramatically worsened since stopping her HCTZ (which was stopped 
out of a concern for a drug rash). I called her dermatologist 
Dr. ___ to discuss further. Dr. ___ that her 
rash is most consistent with a cutaneous T-cell lymphoma, given 
her positive T-cell receptor rearrangement study, and NOT a drug 
rash. She recommended that HCTZ be restarted, that the patient 
attend her dermatooncolgy appointment on ___, and that she 
then follow up with her for further treatment. HCTZ was 
restarted (patient had already received a dose of furosemide at 
this time), and by HD#2 her lower extremity edema was 
dramatically improved. Therefore, she will be discharged on the 
below regimen, and follow up with dermatooncology on ___. 
Otherwise, she initially had a leukocytosis and a modestly 
elevated lactic acid, which resolved with fluids alone and no 
antibiotics.

HOSPITAL COURSE BY PROBLEM:

1. Erythroderma, possibly cutaneous T-cell lymphoma. 
For legs:
-apply triamcinolone 0.1% ointment (dispense jar to bedside)
twice daily, followed by kerlix then ACE bandages for
compression. please elevate legs with ___ pillows to ensure legs
above heart whenever patient is in her bed to help decrease
swelling 
For arms:
-apply triamcinolone 0.1% ointment (dispense jar to bedside)
twice daily, followed by kerlix
For trunk:
-apply triamcinolone 0.1% ointment (dispense jar to bedside)
twice daily, followed by kerlix or Saran Wrap occlusion
For face:
-apply desonide 0.05% ointment twice daily

-for itch,  begin fexofenadine 180 mg BID, may titrate up to 360
BID; may add hydroxyzine 25 mg qhs prn itch

2. HTN.
3. Lower extremity edema.
Restarted HCTZ 25 mg daily. She also received a dose of 
furosemide 20 mg IV in the hospital. Blood pressures were 
otherwise at goal, and lisinoipril was not restarted.

4. Mild eosinophilia. Resolved with fluids.

5. Abnormal EKG. C/w CAD, but without symptoms. Further work up 
in the outpatient setting if she becomes symptomatic.

> 35 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. One-A-Day Womens 50 Plus (mv,Ca,min-folic acid-vit K1) 400-20 
mcg oral DAILY 

 
Discharge Medications:
1.  Desonide 0.05% Cream 1 Appl TP BID 
RX *desonide 0.05 % Please apply to the face Twice daily Disp 
#*1 Tube Refills:*2 
2.  Fexofenadine 180 mg PO BID 
RX *fexofenadine 180 mg 1 tablet(s) by mouth Twice daily Disp 
#*60 Tablet Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*2 
4.  HydrOXYzine 25 mg PO QHS 
RX *hydroxyzine HCl 25 mg 25 mg by mouth at bedtime Disp #*30 
Tablet Refills:*0 
5.  Simvastatin 80 mg PO QPM 
RX *simvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*2 
6.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
RX *triamcinolone acetonide 0.1 % Please apply to rash (NOT on 
face) Twice daily Disp #*1 Tube Refills:*2 
7.  One-A-Day Womens 50 Plus (mv,Ca,min-folic acid-vit K1) 
400-20 mcg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower extremity edema
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with increased swelling in your legs after 
stopping your hydrochlorothiazide, and your skin rash that was 
not improving. I discussed your care with Dr. ___ -- she 
wants you to see oncology on ___, and will likely start 
treatment after this. I restarted your hydrochlorothiazide and 
simvastatin, and gave you an "extra" dose of furosemide, with 
much improvement in your swelling. Please continue to take 
hydrochlorothiazide and simvastatin at home.

I am also sending you home with prescriptions for the steroid 
creams. Please continue to use these.
 
Followup Instructions:
___